US07399759B2
6-(1,3-Oxazol-5-yl)-2-pyridinecarbonitrile
2-(1,3-Oxazol-5-yl)pyridine N-oxide (1.0 g, 6.6 mmol) was dissolved in nitroethane (15 ml), and trimethylsilyl cyanide (2.7 g, 27.2 mmol) and N,N-dimethylcarbamoyl chloride (3.0 g, 27.8 mmol) were added thereto. The mixture was stirred at room temperature for 5 days. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-hexane (1:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (0.84 g, 75%).

reactant | 2-(1,3-Oxazol-5-yl)pyridine N-oxide | 6.6 mmol, 1.0 g | O1C=NC=C1C1=[N+](C=CC=C1)[O-] | C8H6N2O2
reactant | trimethylsilyl cyanide | 27.2 mmol, 2.7 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 27.8 mmol, 3.0 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 15 ml | [N+](=O)([O-])CC | C2H5NO2
product | 6-(1,3-Oxazol-5-yl)-2-pyridinecarbonitrile | 0.84 g, 75% | O1C=NC=C1C1=CC=CC(=N1)C#N | C9H5N3O
